US07807673B2
Step A: 1-[2-(Methyloxy)-5-nitrophenyl]piperazine
To 1-[2-(methyloxy)phenyl]piperazine (11.0 g, 50.7 mmol) was added concentrated H2SO4 (60 mL) dropwise to and stirred for 4 h at 0° C. KNO3 (7.2 g, 71.2 mmol) was then added and the mixture stirred overnight while allowing to warm to rt. Reaction was then quenched with ice and then 2N NaOH (100 mL) added and extracted three times with EtOAc. Combined organic phases were dried over MgSO4 and loaded directly onto silica gel. Purified by silica gel chromatography in 0-20% MeOH/NH4OH in EtOAc. Yield 5.7 g, 42% yield, of an orange solid. 1H NMR (400 MHz, DMSO-D6) δ ppm 2.8 (m, 4H) 2.9 (m, 4H) 3.1 (m, 1H) 3.9 (s, 3H) 7.1 (d, J=9.1 Hz, 1H) 7.6 (d, J=2.7 Hz, 1H) 7.9 (dd, J=9.0, 2.7 Hz, 1H).

reactant | 1-[2-(methyloxy)phenyl]piperazine | 50.7 mmol, 11.0 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | KNO3 | 71.2 mmol, 7.2 g | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 60 mL | OS(=O)(=O)O | H2O4S
product | 1-[2-(Methyloxy)-5-nitrophenyl]piperazine | 42% yield | COC1=C(C=C(C=C1)[N+](=O)[O-])N1CCNCC1 | C11H15N3O3
